US09126931B2
8-((S)-2,2-Dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3,4-dicarbonitrile
Under nitrogen atmosphere, 4-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound U6, 20.0 mg, 40.37 μmol) was dissolved in DMA (0.35 mL), added with copper (I) cyanide (18.1 mg, 201.9 μmol), and stirred at 200° C. for 1 hr under irradiation with microwave. The reaction solution was poured into water, extracted with ethyl acetate, washed with water and saturated brine, dried over sodium sulfate, and then filtered. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound as a crude product.

reactant | 4-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 40.37 μmol, 20.0 mg | BrC=1C(=CC=C2C=3C(C4=C(C(C3NC12)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O)C#N | C25H23BrN2O4
reactant | copper (I) cyanide | 201.9 μmol, 18.1 mg | [Cu]C#N
reactant | water | O | H2O
solvent | DMA | 0.35 mL | CC(=O)N(C)C | C4H9NO
product | 8-((S)-2,2-Dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3,4-dicarbonitrile | CC1(OC[C@@H](O1)COC=1C=CC2=C(C(C=3NC4=C(C(=CC=C4C3C2=O)C#N)C#N)(C)C)C1)C | C26H23N3O4
